US07326732B2
(i) 5-Nitro-benzofuran-2-carboxylic acid ethyl ester
5-Nitro-benzofuran-2-carboxylic acid (500 mg, 2.41 mmol) was esterified with EtOH using Method A to give the title compound.

reactant | 5-Nitro-benzofuran-2-carboxylic acid | 2.41 mmol, 500 mg | [N+](=O)([O-])C=1C=CC2=C(C=C(O2)C(=O)O)C1 | C9H5NO5
reactant | EtOH | CCO | C2H6O
product | 5-Nitro-benzofuran-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-] | C11H9NO5
